US09422331B2
A rt solution of tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-1-((4-methoxybiphenyl-3-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (37 mg, 57.8 μmol) in 4 M HCl in dioxane (289 μl) was stirred for 1 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration, taken up in MeCN—H2O, and lyophilized to provide (S)-N-((3S,4S)-5-acetyl-7-cyano-1-((4-methoxybiphenyl-3-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride (29.0 mg, 87%) as a white solid. MS m/z 540 (MH)+.

reactant | tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-1-((4-methoxybiphenyl-3-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 57.8 μmol, 37 mg | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC=1C=C(C=CC1OC)C1=CC=CC=C1)C=CC(=C2)C#N | C36H41N5O6
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 289 μl | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (S)-N-((3S,4S)-5-acetyl-7-cyano-1-((4-methoxybiphenyl-3-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride | 29.0 mg, 87% | Cl.C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)NC)=O)=O)CC=1C=C(C=CC1OC)C1=CC=CC=C1)C=CC(=C2)C#N | InChI=1S/C31H33N5O4.ClH/c1-19(33-4)30(38)34-29-20(2)36(21(3)37)27-15-22(17-32)11-13-26(27)35(31(29)39)18-25-16-24(12-14-28(25)40-5)23-9-7-6-8-10-23;/h6-16,19-20,29,33H,18H2,1-5H3,(H,34,38);1H/t19-,20-,29-;/m0./s1
